US06869954B2
Preparation of 2-(4-chlorocinnamyl)-6-(3-fluoro-4-methoxyphenyl)-4-[4-(2-hydroxyethyl)-1-piperazinyl]methyl-2H-pyridazin-3-one
Following the procedure of Example 1(10), 2-(4-chlorocinnamyl)-6-(3-fluoro-4-methoxyphenyl)-4-methanesulfonyloxymethyl-2H-pyridazin-3-one and 1-piperazineethanol were reacted to yield the title compound as slightly-yellow needles (yield: 65.1%).

reactant | 2-(4-chlorocinnamyl)-6-(3-fluoro-4-methoxyphenyl)-4-methanesulfonyloxymethyl-2H-pyridazin-3-one | ClC1=CC=C(C=CCN2N=C(C=C(C2=O)COS(=O)(=O)C)C2=CC(=C(C=C2)OC)F)C=C1 | C22H20ClFN2O5S
reactant | 1-piperazineethanol | N1(CCNCC1)CCO | C6H14N2O
product | 2-(4-chlorocinnamyl)-6-(3-fluoro-4-methoxyphenyl)-4-[4-(2-hydroxyethyl)-1-piperazinyl]methyl-2H-pyridazin-3-one | yield: 65.1% | ClC1=CC=C(C=CCN2N=C(C=C(C2=O)CN2CCN(CC2)CCO)C2=CC(=C(C=C2)OC)F)C=C1 | C27H30ClFN4O3
